US08461179B1
A mixture of 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-fluoro-5-methylphenyl)urea (197 mg, 0.319 mmol) and anisole (172 mg, 1.594 mmol) was stirred in TFA (4 mL) at RT for 3 h. The mixture was concentrated to near-dryness, treated with EtOAc and satd. NaHCO3 and the resulting solid collected via filtration and dried to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-fluoro-5-methylphenyl)urea (113 mg, 71% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.18 (br s, 1H), 8.80 (br s, 1H), 8.41 (s, 1H), 8.14 (d, J=8.5 Hz, 1H), 7.73 (s, 1H), 7.52 (d, J=10.8 Hz, 1H), 7.22 (d, J=11.5 Hz, 1H), 7.03 (br s, 1H), 6.92 (s, 1H), 6.67-6.59 (m, 1H), 6.24 (s, 1H), 4.14 (q, J=7.1 Hz, 2H), 2.86 (s, 3H), 2.25 (s, 3H), 1.21 (t, J=7.3 Hz, 3H); MS (ESI) m/z: 498.1 [M+H]+.

reactant | 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-fluoro-5-methylphenyl)urea | 0.319 mmol, 197 mg | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)N(C)CC1=CC=C(C=C1)OC)CC)=O)NC(=O)NC1=CC(=CC(=C1)C)F)F | C33H30ClF2N5O3
reactant | anisole | 1.594 mmol, 172 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-fluoro-5-methylphenyl)urea | 113 mg, 71% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC(=C1)C)F)F | C25H22ClF2N5O2
